US07326788B2
a. 2-Benzylamino-5-chloro-benzoic acid benzyl ester
To a mixture of 5-chloroisatoic anhydride (5.00 g, 25.3 mmol) and benzylbromide (78.83 g, 50.6 mmol) in 50 ml of CH3CN was added 7.57 ml of DBU (50.6 mmol) at rt under Ar. The resulting mixture was stirred at rt for 16 hr. Treated with 100 ml of EtOAc, the mixture was washed with H2O, brine and dried (Na2SO4). Removal of the solvent in vacuo followed by flash chromatography of the residue on silica gel (10% DCM/hexanes-5% EtOAc/hexanes) gave 6.50 g (73%) of product as a brown oil.: 1H-NMR (CDCl3; 400 MHz) 3 8.17 (t, 1H, J=5.2 Hz), 7.92 (d, 1H, J=2.8 Hz), 7.19-7.48 (m, 11H), 6.56 (d, 1H, J=9.2 Hz), 5.31 (s, 2H), 4.43 (d, 2H, J=5.2 Hz). Mass spectrum (ESI, m/z): Calcd. for C21H18ClNO2, 352.1 (M+H), found 352.0.

reactant | 5-chloroisatoic anhydride | 25.3 mmol, 5.00 g | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | benzylbromide | 50.6 mmol, 78.83 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DBU | 50.6 mmol, 7.57 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | 2-Benzylamino-5-chloro-benzoic acid benzyl ester | 6.50 g, 73% | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)Cl)NCC1=CC=CC=C1)=O | C21H18ClNO2
